US04870074
Preparation of 2-(2-acetoxyethyl)-4-benzyloxycarbonylmorpholine
To a solution of 2-(2-acetoxyethyl)-4-benzylmorpholine (29.1 g) in acetonitrile (200 ml) is dropwise added benzyl chloroformate (24.4 g). The reaction mixture is refluxed for 30 minutes, cooled and evaporated under reduced pressure. The residue is chromatographed on silica gel. The eluate with hexane is discarded, and the subsequent eluates with hexane-chloroform (1:1) are pooled and evaporated to give the title compound (24.5 g) as an oil.

reactant | 2-(2-acetoxyethyl)-4-benzylmorpholine | 29.1 g | C(C)(=O)OCCC1CN(CCO1)CC1=CC=CC=C1 | C15H21NO3
reactant | benzyl chloroformate | 24.4 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-(2-acetoxyethyl)-4-benzyloxycarbonylmorpholine | 24.5 g | C(C)(=O)OCCC1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C16H21NO5
